US07888352B2
2-Chloro-4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidine (600 mg) was reacted with lactic acid via General Procedure B to give (S)-1-(4-((2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-hydroxypropan-1-one.

reactant | 2-Chloro-4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidine | 600 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCNCC2)N2CCOCC2 | C15H20ClN5OS
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
product | (S)-1-(4-((2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-hydroxypropan-1-one | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C([C@H](C)O)=O)N2CCOCC2 | C18H24ClN5O3S
